US09326987B2
N-[5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide
To a solution of 5-[4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinamine (200 mg, 0.347 mmol) in pyridine (1 ml) was added, dropwise, methanesulphonyl chloride (0.054 ml, 0.695 mmol) and the mixture stirred at 20° C. for 18 hr. Water (10 ml) was added and the title compound was collected by filtration as a brown solid (106 mg).

reactant | 5-[4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinamine | 0.347 mmol, 200 mg | C[C@@H]1CN(C[C@@H](O1)C)CC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C=1C=C(C(=NC1)OC)N)S(=O)(=O)C1=CC=CC=C1 | C28H29N7O5S
reactant | methanesulphonyl chloride | 0.695 mmol, 0.054 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 10 ml | O | H2O
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-[5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide | C[C@@H]1CN(C[C@@H](O1)C)CC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C)S(=O)(=O)C1=CC=CC=C1 | C29H31N7O7S2
